US08492378B2
2-(2,3-dihydro-1-benzofuran-5-yl)-5-[(3-fluorobenzyl)oxy]-1,3,4-oxadiazole
A solution of 2-(2,3-dihydro-1-benzofuran-5-yl)-5-(methylsulfonyl)-1,3,4-oxadiazole (0.15 g, 0.56 mmol), potassium carbonate (111 mg, 0.80 mmol) and 3-fluorobenzyl alcohol (91 μL, 0.83 mmol) in N,N-dimethylformamide (5 mL) was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=3/1) and recrystallized from hexane/ethyl acetate to give the title compound (84 mg, yield 48%) as colorless crystals.

reactant | 2-(2,3-dihydro-1-benzofuran-5-yl)-5-(methylsulfonyl)-1,3,4-oxadiazole | 0.56 mmol, 0.15 g | O1CCC2=C1C=CC(=C2)C=2OC(=NN2)S(=O)(=O)C | C11H10N2O4S
reactant | potassium carbonate | 0.80 mmol, 111 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluorobenzyl alcohol | 0.83 mmol, 91 μL | FC=1C=C(CO)C=CC1 | C7H7FO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,3-dihydro-1-benzofuran-5-yl)-5-[(3-fluorobenzyl)oxy]-1,3,4-oxadiazole | 84 mg, yield 48% | O1CCC2=C1C=CC(=C2)C=2OC(=NN2)OCC2=CC(=CC=C2)F | C17H13FN2O3
